US04487930
A solution of 5.0 g of 6-chloro-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine in 25 ml of 1-(3-aminopropyl)pyrrolidine was heated at reflux for 15 hours. Excess amine was removed by distillation and the resulting residue was partitioned between methylene chloride and saturated aqueous sodium bicarbonate solution. The organic layer was separated, dried over sodium sulfate and concentrated. The brown residue obtained was triturated with ether and the resulting solid was recrystallized from toluene to give 6-[3-(1-pyrrolidinyl)propylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine melting at about 169°-171° C.

reactant | 6-chloro-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine | 5.0 g | ClC1=NN2C(C=3CCCCC13)=NN=C2 | C9H9ClN4
reactant | 1-(3-aminopropyl)pyrrolidine | 25 ml | NCCCN1CCCC1 | C7H16N2
product | 6-[3-(1-pyrrolidinyl)propylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine | N1(CCCC1)CCCNC1=NN2C(C=3CCCCC13)=NN=C2 | C16H24N6
